US05136090
To 5 ml of a DMF solution containing 200 mg (0.5181 mmol) of 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl and 646.5 μl (5.181 mmol) of isopentyl bromide, there were added 85.8 mg (0.6217 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated overnight at room temperature. The reaction mixture was filtered by suction through Celite to remove the solid matter and the filtrate was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, dilute aqueous sodium bicarbonate, water and aqueous sodium chloride solution in this sequence and was dried by adding anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 20 g of WAKO-gel C-200, eluent: toluene and toluene/ethyl acetate of 100/1 and 50/1) to obtain 8.2 mg (0.456 mmol, 88%) of 2-isopentyloxy-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl as an oily product.

reactant | 2,2'-dihydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.5181 mmol, 200 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | isopentyl bromide | 5.181 mmol, 646.5 μl | C(CC(C)C)Br | C5H11Br
reactant | potassium carbonate | 0.6217 mmol, 85.8 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-isopentyloxy-2'-hydroxy-5,5'-bis (2-ethoxycarbonylethyl) biphenyl | 0.456 mmol, 8.2 mg, 88% | C(CC(C)C)OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C27H36O6
